US07935725B2
(S,S)-2-[4-(5-Methanesulfonyl-2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-benzyl]-benzothiazole
To a solution of 1-[5-(4-benzothiazol-2-ylmethyl-benzyl)-2,5-diaza-bicyclo[2.2.1]hept-2-yl]-ethanone (0.2 g, 0.49 mmol) in CH2Cl2 (5 mL) was added Et3N (0.41 mL, 3.0 mmol) and methanesulfonyl chloride (57 μL, 0.74 mmol) and the resulting solution was stirred at rt for 14 h. The reaction mixture was concentrated and the crude residue was partitioned between EtOAc (50 mL) and brine (50 mL). The organic layer was separated, dried (Mg2SO4), filtered and concentrated. Purification by silica gel flash chromatography (0% to 15% CH3OH in CH2Cl2) afforded the title compound as clear oil (0.13 g, 62%). MS (ESI): mass calcd. for C21H23N3O2S2, 413.56; m/z found, 414.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.01 (d, J=7.8 Hz, 1H), 7.81 (dd, J=7.8, 0.5 Hz, 1H), 7.49-7.45 (m, 1H), 7.37-7.34 (m, 5H), 4.44 (d, J=2.0 Hz, 2H), 4.31 (br s, 1H), 3.80 (d, J=13.8 Hz, 1H), 3.75 (d, J=13.8 Hz, 1H), 3.62-3.60 (m, 1H), 3.57 (br s, 1H), 3.24 (dd, J=9.3, 2.3 Hz, 1H), 2.90-2.89 (br m, 4H), 2.85-2.83 (br m, 1H), 1.96-1.94 (m, 1H), 1.74-1.72 (m, 1H).

reactant | 1-[5-(4-benzothiazol-2-ylmethyl-benzyl)-2,5-diaza-bicyclo[2.2.1]hept-2-yl]-ethanone | 0.49 mmol, 0.2 g | S1C(=NC2=C1C=CC=C2)CC2=CC=C(CN1C3CN(C(C1)C3)C(C)=O)C=C2 | C22H23N3OS
reactant | Et3N | 3.0 mmol, 0.41 mL | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.74 mmol, 57 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-2-[4-(5-Methanesulfonyl-2,5-diaza-bicyclo[2.2.1]hept-2-ylmethyl)-benzyl]-benzothiazole | 0.13 g, 62% | CS(=O)(=O)N1[C@@H]2CN([C@H](C1)C2)CC2=CC=C(CC=1SC3=C(N1)C=CC=C3)C=C2 | C21H23N3O2S2
